US08530470B2
To a stirred solution of morpholine (201 mL, 2295 mmol) in water (2 L) was added carbon disulfide (0.138 L, 2295.67 mmol) under nitrogen. Sodium hydroxide (96 g, 2410 mmol in solution in 1 L of water) was then added dropwise. The resulting mixture was stirred at room temperature for 1 h, then cooled to 5° C. with an ice bath and dimethyl sulphate (217 mL, 2295 mmol) was added dropwise. The mixture was stirred 1 h at room temperature, the obtained solid was collected by filtration, washed with water (2×1 L) and dried under vacuum over phosphorus pentoxide at 50° C. to give methyl morpholine-4-carbodithioate (360 g, 88%). Proton NMR Spectrum: (CDCl3): 2.68 (s, 3H), 3.71-3.84 (m, 4H), 4.02 (bs, 2H), 4.30 (bs, 2H).

reactant | morpholine | 2295 mmol, 201 mL | N1CCOCC1 | C4H9NO
reactant | carbon disulfide | 2295.67 mmol, 0.138 L | C(=S)=S | CS2
reactant | Sodium hydroxide | 2410 mmol, 1 L, 96 g | [OH-].[Na+]
reactant | dimethyl sulphate | 2295 mmol, 217 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 2 L | O | H2O
product | methyl morpholine-4-carbodithioate | 360 g, 88% | N1(CCOCC1)C(=S)SC | C6H11NOS2
